US07550484B2
A mixture of 2,7-bis-(3-methyl-pyridin-2-yl)-2,3,6,7-tetrahydro-1H-azepine (30.2 mg, 0.108 mmol), 2-(4-bromo-butyl)-isoindole-1,3-dione (33.5 mg, 0.119 mmol), DMF (3 mL), DIPEA (0.3 mL), and KI (4 mg) were heated to 110° C. for 4 h and overnight at 90° C. The solvent was removed and CH2Cl2 (20 mL) was added to the residue. It was washed with saturated NaHCO3 (10 mL). The aqueous layer was extracted two more times with CH2Cl2. The organic layer was dried (MgSO4), filtered and concentrated. Purification of the crude material by radial chromatography on silica gel (1 mm plate, 2:1 hexanes:EtOAc) provided 13.3 mg of 2-{4-[2,7-bis-(3-methyl-pyridin-2-yl)-2,3,6,7-tetrahydro-azepin-1-yl]-butyl}-isoindole-1,3-dione as a film. 1H NMR(CDCl3) δ 0.53-0.59 (m, 1H), 0.65-1.00 (m, 3H), 2.36 (s, 6H), 2.36-2.41 (m, 1H), 2.47-2.50 (m, 2H), 3.02-3.24 (m, 5H), 4.72 (dd, 2H, J=9.6, 1.8 Hz), 5.80-5.83 (m, 2H), 6.90 (dd, 2H, J=7.5, 4.2 Hz), 7.23 (d, 2H, J=7.5 Hz), 7.67-7.73 (m, 2H), 7.76-7.86 (m, 2H), 8.35 (d, 2H, J=4.2 Hz).

reactant | 2,7-bis-(3-methyl-pyridin-2-yl)-2,3,6,7-tetrahydro-1H-azepine | 0.108 mmol, 30.2 mg | CC=1C(=NC=CC1)C1NC(CC=CC1)C1=NC=CC=C1C | C18H21N3
reactant | 2-(4-bromo-butyl)-isoindole-1,3-dione | 0.119 mmol, 33.5 mg | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
reactant | DIPEA | 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-{4-[2,7-bis-(3-methyl-pyridin-2-yl)-2,3,6,7-tetrahydro-azepin-1-yl]-butyl}-isoindole-1,3-dione | 13.3 mg | CC=1C(=NC=CC1)C1N(C(CC=CC1)C1=NC=CC=C1C)CCCCN1C(C2=CC=CC=C2C1=O)=O | C30H32N4O2
